US06440995B1
(RS)-3-(2-Chroman-6-yl-quinolin-4-ylamino)-propane-1,2-diol hydrochloride
The title compound, MS: m/e=351.3 (M+Ht), was prepared from 4-chloro-2-chroman-6-yl-quinoline and (RS)-3-amino-1,2-propandiol.

reactant | 4-chloro-2-chroman-6-yl-quinoline | ClC1=CC(=NC2=CC=CC=C12)C=1C=C2CCCOC2=CC1 | C18H14ClNO
reactant | (RS)-3-amino-1,2-propandiol | NCC(CO)O | C3H9NO2
product | (RS)-3-(2-Chroman-6-yl-quinolin-4-ylamino)-propane-1,2-diol hydrochloride | Cl.O1CCCC2=CC(=CC=C12)C1=NC2=CC=CC=C2C(=C1)NCC(CO)O | InChI=1S/C21H22N2O3.ClH/c24-13-16(25)12-22-20-11-19(23-18-6-2-1-5-17(18)20)14-7-8-21-15(10-14)4-3-9-26-21;/h1-2,5-8,10-11,16,24-25H,3-4,9,12-13H2,(H,22,23);1H
